US06555700B1
As for Example 2, Part 2 but replacing 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane with 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-hydroxypentane and z-octadeca-9-enoic acid with z,z,z,z,z-eicosa-5,8,11,14,17-pentaenoic acid. Chromatography yielded 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-(z,z,z,z,z-eicosa-5,8,11,14,17-pentaenoyloxy)pentane as a pale yellow oil.

reactant | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-hydroxypentane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCCCO | C23H40O3
reactant | z-octadeca-9-enoic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | z,z,z,z,z-eicosa-5,8,11,14,17-pentaenoic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C20H30O2
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-5-(z,z,z,z,z-eicosa-5,8,11,14,17-pentaenoyloxy)pentane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCCCOC(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C43H68O4
